US07491724B2
(1S,2S,5R)-5-[(1-acetylpiperidin-4-yl)oxy]-N-hydroxy-2-[(4-phenylpiperazin-1-yl)carbonyl]cyclohexanecarboxamide
1.5 M of H2NOH in MeOH (0.75 ml) was added into a solution of methyl(1S,2S,5R)-5-[(1-acetylpiperidin-4-yl)oxy]-2-[(4-phenylpiperazin-1-yl)carbonyl]cyclohexane-carboxylate (0.1 mmol, 0.0001 mol) in 0.5 ml of MeOH. It was stirred at rt for 2 hrs. It was purified by Prep-HPLC. LCMS: (M+H)+=473.1.

reactant | H2NOH | 1.5 M | NO | H3NO
reactant | methyl(1S,2S,5R)-5-[(1-acetylpiperidin-4-yl)oxy]-2-[(4-phenylpiperazin-1-yl)carbonyl]cyclohexane-carboxylate | 0.1 mmol | C(C)(=O)N1CCC(CC1)O[C@@H]1CC[C@@H]([C@H](C1)C(=O)OC)C(=O)N1CCN(CC1)C1=CC=CC=C1 | C26H37N3O5
solvent | MeOH | 0.75 ml | CO | CH4O
solvent | MeOH | 0.5 ml | CO | CH4O
product | (1S,2S,5R)-5-[(1-acetylpiperidin-4-yl)oxy]-N-hydroxy-2-[(4-phenylpiperazin-1-yl)carbonyl]cyclohexanecarboxamide | C(C)(=O)N1CCC(CC1)O[C@@H]1CC[C@@H]([C@H](C1)C(=O)NO)C(=O)N1CCN(CC1)C1=CC=CC=C1 | C25H36N4O5
